US07648989B2
Preparation of 2-[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetamide
[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid (1.57 g, 5.78 mmol) and carbonyl diimidazole (1.03 g, 6.36 mmol) are dissolved under an atmosphere of argon in DMF (16 ml). After stirring at RT for 1 h, aqueous NH4OH (25%, 16 ml) is added, and stirring at RT is continued for 15 minutes. TLC analysis indicated complete consumption of starting material. The aqueous layer is saturated with NaCl and extracted repeatedly with CH2Cl2. The organic layers are dried over Na2SO4 and concentrated. Purification by FCC (CH2Cl2:MeOH 95:5 to 90:10 to 80:20 to 70:30 to 50:50 to 25:75 to 0:100) yields the title compound. 1H NMR (d6-DMSO 400 MHz): δ 2.76 (s, 3H), 3.12-3.42 (m, 8H), 3.34 (s, 2H), 6.86-6.96 (br s, 1H), 7.26 (s, 1H), 7.93 (s, 1H), 8.21 (s, 1H). ES+−MS: 235.4 [M+H]+.

reactant | [5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetic acid | 5.78 mmol, 1.57 g | CN1CCN(CC1)C=1C=C(C=NC1)CC(=O)O | C12H17N3O2
reactant | carbonyl diimidazole | 6.36 mmol, 1.03 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | NH4OH | 16 ml | [NH4+].[OH-]
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | 2-[5-(4-Methyl-piperazin-1-yl)-pyridin-3-yl]-acetamide | CN1CCN(CC1)C=1C=C(C=NC1)CC(=O)N | C12H18N4O
